US07135243B2
To a 3 L of three neck flask were charged with 30 0 g (0.065 mol.) of 4,10-Dibromo-dibenzo[def,mno]chrysene-6,12-dione, 17.8 g (0.146 mol.) of phenyl boronic acid, and 0.2 g of 18-c-6 in a mixture of 1200 mL of toluene, 300 mL of ethanol, and 250 mL of 2.0 N potassium carbonate. After mixture was bubbled with house nitrogen for 15 min, 0.3 g of Pd (PPh3)4 was added to the reaction mixture under nitrogen. Then the reaction mixture was heated to reflux with efficient stirring under nitrogen protection. After the reaction proceeded for three hours, 0.2 g of Pd (PPh3)4 was added to the reaction mixture under nitrogen. The reaction mixture was continued to reflux for overnight. The newly formed orange solid was suspended in organic layer. After cool the reaction mixture to room temperature, the water phase was separated. The organic layer (with newly formed orange solid was suspended) was washed with water for three times (3×300 mL). The orange precipitates was filtered and washed with acetone (for easy dry). A 28.8 g of pure 4,10-Diphenyl-dibenzo[def,mno]chrysene-6,12-dione was obtained. Yield is in 96.5%.

reactant | 4,10-Dibromo-dibenzo[def,mno]chrysene-6,12-dione | BrC1=CC2=C3C4=C1C=CC=C4C(C4=C3C=3C(=CC=CC3C2=O)C(=C4)Br)=O | C22H8Br2O2
reactant | phenyl boronic acid | 0.146 mol, 17.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethanol | 300 mL | C(C)O | C2H6O
reactant | potassium carbonate | 2.0 N, 250 mL | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
product | 4,10-Diphenyl-dibenzo[def,mno]chrysene-6,12-dione | 28.8 g | C1(=CC=CC=C1)C1=CC2=C3C4=C1C=CC=C4C(C4=C3C=3C(=CC=CC3C2=O)C(=C4)C4=CC=CC=C4)=O | C34H18O2
